US08703953B2
To a stirred solution of 2-((tert-butoxycarbonyl)amino)-2,4-dimethylpentanoic acid (1.6 g, 6.52 mmol) in tetrahydrofuran (40 mL) cooled to −10° C. under nitrogen atmosphere was added N-methylmorpholine (0.860 mL, 7.83 mmol) followed by isobutyl chloroformate (1.028 mL, 7.83 mmol) dropwise and the reaction mixture was stirred for 30 min. The reaction mixture was then filtered and the filtrate was added dropwise to a suspension of NaBH4 (0.494 g, 13.04 mmol) in water (20.0 mL). The reaction mixture was stirred for 10 min then diluted with ethyl acetate (30 mL). The organic layer was separated and washed with brine (2×20 mL), dried over (Na2SO4) and evaporated under reduced pressure. The residue was purified by silica gel chromatography (30% ethyl acetate and pet ether) to afford tert-butyl(1-hydroxy-2,4-dimethylpentan-2-yl)carbamate (1.1 g, 4.76 mmol, 73% yield) as an oil. 1H NMR (400 MHz, DMSO-d6) δ 6.09 (s, 1 H), 4.61 (t, J=7.6 Hz, 1 H), 3.35 (m, 2 H), 1.8-1.6 (m, 2 H), 1.44-1.35 (m, 10 H), 1.09 (s, 3 H), 0.86 (m, 6 H).

reactant | 2-((tert-butoxycarbonyl)amino)-2,4-dimethylpentanoic acid | 6.52 mmol, 1.6 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(CC(C)C)C | C12H23NO4
reactant | N-methylmorpholine | 7.83 mmol, 0.860 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 7.83 mmol, 1.028 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 13.04 mmol, 0.494 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 20.0 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl(1-hydroxy-2,4-dimethylpentan-2-yl)carbamate | 4.76 mmol, 1.1 g, 73% yield | C(C)(C)(C)OC(NC(CO)(CC(C)C)C)=O | C12H25NO3
